US08431695B2
Preparation of N-{4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide
Using a procedure similar to that of Example 5, with 7-(4-amino-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and methanesulfonyl chloride as starting materials, 30 mg (16%) of the desired product was Isolated. 1H NMR (300 MHz, DMSO-d6) δ 9.80 (s, 1 H), 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.10 (s, 3H); ES-MS m/z 510.17 [M+H]+, HPLC RT (min) 3.07.

reactant | 7-(4-amino-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | NC1=CC=C(C=C1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H21N7
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | 30 mg, 16% | NC1=NC=NN2C1=C(C=C2C2=CC=C(C=C2)NS(=O)(=O)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H23N7O2S
